US04254024
A solution of 2.2 g of Boc-Tyr-DAla-Phe-Met-NH2 in 20 ml of 10% anisole in trifluoroacetic acid (TFA) was stirred for 30 min. Evaporation of the solvent gave a residue which was dissolved in 20 ml of water:methanol:acetic acid (94:5:1) and applied to a column of Amberlite XAD-2 (44-74 μm, 2.7×60 cm). The sample was eluted at 6 ml/min with a convex gradient formed from 2 L of water:methanol:acetic acid (94:5:1) into which was fed methanol:water:acetic acid (50:49:1). Evaporation of the product peak gave a syrup which was dissolved in 100 ml of ethanol and diluted with 100 ml of ether to give 1.37 g (66%) of H-Tyr-DAla-Phe-Met-NH2.HOAc, m.p. 210°-211° C., [α]D25 =45.21° (c, 1.00 in 10% acetic acid).

reactant | Boc-Tyr-DAla-Phe-Met-NH2 | 2.2 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C31H43N5O7S
solvent | anisole | 20 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water methanol acetic acid | 20 ml | O.CO.C(C)(=O)O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | methanol water acetic acid | CO.O.C(C)(=O)O
product | H-Tyr-DAla-Phe-Met-NH2 | 1.37 g, 66% | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)N | C26H35N5O5S
